US05218115
(D) 1,3-Dihydro-1-[1-(2,4-dinitrophenyl)-4-imidazolyl]methyl-3-amino-5-phenyl-2H-1,4-benzodiazepin-2-one hydrobromide (4)
1,3-Dihydro-1-[1-(2,4-dinitrophenyl)-4-imidazolyl]methyl-3-[(benzyloxycarbonyl)amino]-5-phenyl-2H-1,4-benzodiazepin-2-one (70 mg) was dissolved in 10 ml of methylene chloride. The resulting solution was cooled to 0° C. and saturated with hydrogen bromide gas for 10 minutes. The reaction vessel was sealed and the reaction mixture was allowed to warm to room temperature over 0.5 hours. The vessel was vented and the solvent and excess hydrogen bromide gas were removed under reduced pressure to give 70 mg of the title compound.

reactant | 1,3-Dihydro-1-[1-(2,4-dinitrophenyl)-4-imidazolyl]methyl-3-[(benzyloxycarbonyl)amino]-5-phenyl-2H-1,4-benzodiazepin-2-one | 70 mg | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)OCC2=CC=CC=C2)=O | C33H25N7O7
reactant | hydrogen bromide | Br | BrH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 1,3-Dihydro-1-[1-(2,4-dinitrophenyl)-4-imidazolyl]methyl-3-amino-5-phenyl-2H-1,4-benzodiazepin-2-one hydrobromide | 70 mg | Br.[N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])N1C=NC(=C1)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)N)=O | InChI=1S/C25H19N7O5.BrH/c26-24-25(33)30(20-9-5-4-8-19(20)23(28-24)16-6-2-1-3-7-16)14-17-13-29(15-27-17)21-11-10-18(31(34)35)12-22(21)32(36)37;/h1-13,15,24H,14,26H2;1H
